US06780891B2
1-Cyclohex-1-enyl-3-methoxy-benzene
A 1L 3-neck RBF under argon was charged with crude 1-(m-methoxyphenyl)cyclohexanol (59.2 g, 287 mmol). To the flask was added 592 mL of dry THF. The reaction was cooled to 0° C., and to it was slowly added SOCl2 (58.6 mL, 803.6 mmol). After stirring for 10 minutes, pyridine (104 mL, 1.29 mol) was added slowly. The reaction mixture stirred slowly at 22° C. for 2 hours, and then it was cooled back to 0° C. 1N HCl (500 mL) was slowly added to the reaction. The layers were separated. The THF layer was dried (MgSO4), filtered, and concentrated in vacuo. The crude product was chromatographed using 100% hexane as eluent to provide 39.5 g (82%, 2 steps) of product. 1H NMR (CDCl3) δ1.72 (m, 2H), 1.83 (m, 2H), 2.24 (m, 2H), 2.45 (m, 2H), 3.86 (s, 3H), 6.18 (m, 1H), 6.83 (dd, J=8.1, 1.7 Hz, 1H), 6.98 (m, 1H), 7.03 (d, J=6.1 Hz, 1H), 7.27 (t, J=7.8 Hz, 1H).

reactant | 1-(m-methoxyphenyl)cyclohexanol | 287 mmol, 59.2 g | COC=1C=C(C=CC1)C1(CCCCC1)O | C13H18O2
reactant | SOCl2 | 803.6 mmol, 58.6 mL | O=S(Cl)Cl | Cl2OS
reactant | pyridine | 1.29 mol, 104 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1N, 500 mL | Cl | ClH
solvent | THF | 592 mL | C1CCOC1 | C4H8O
product | 1-Cyclohex-1-enyl-3-methoxy-benzene | C1(=CCCCC1)C1=CC(=CC=C1)OC | C13H16O
